US05457105
Using an analogous procedure to that described in Example 13 except that the reaction mixture was stirred at ambient temperature rather than being heated to 100° C., 6-amino-4-(3'-chloroanilino)quinazoline was reacted with 2-methoxyacetyl chloride to give 6-(2-methoxyacetamido)-4-(3'-chloroanilino)quinazoline in 41% yield, m.p. 177°-180° C.

reactant | 6-amino-4-(3'-chloroanilino)quinazoline | NC=1C=C2C(=NC=NC2=CC1)NC1=CC(=CC=C1)Cl | C14H11ClN4
reactant | 2-methoxyacetyl chloride | COCC(=O)Cl | C3H5ClO2
product | 6-(2-methoxyacetamido)-4-(3'-chloroanilino)quinazoline | 41% yield | COCC(=O)NC=1C=C2C(=NC=NC2=CC1)NC1=CC(=CC=C1)Cl | C17H15ClN4O2
